US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (28.6 g), a 2M ethanolic solution of sodium ethylate (50 cc) and ethyl (methylthio)acetate (13.4 g) in ethanol (180 cc). Diethyl 2-dimethylamino-5-methylthio-2,4-hexadienedioate (21.9 g) is thereby obtained in the form of a brown oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 28.6 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 50 cc | CC[O-].[Na+]
reactant | ethyl (methylthio)acetate | 13.4 g | CSCC(=O)OCC | C5H10O2S
solvent | ethanol | 180 cc | C(C)O | C2H6O
product | Diethyl 2-dimethylamino-5-methylthio-2,4-hexadienedioate | 21.9 g | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C)C | C13H21NO3S
